US06531495B1
From 2′-phthalimidomethylbiphenyl-2-carboxylic acid (precursor 2), after activation with CDI and reaction with phenethylamine, 2′-phthalimidomethylbiphenyl-2-carboxylic acid phenethylamide was obtained; m.p. 156° C.

reactant | 2′-phthalimidomethylbiphenyl-2-carboxylic acid | C1(C=2C(C(N1CC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)O)=O)=CC=CC2)=O | C22H15NO4
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
product | 2′-phthalimidomethylbiphenyl-2-carboxylic acid phenethylamide | C(CC1=CC=CC=C1)NC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C30H24N2O3
